US04426536
1-Cyano-1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone
To a flame-dried flask was added 8.1 g. of sodium methoxide, 125 ml. of toluene and 21 ml. of methanol. The mixture was brought to reflux at 85°-87°, and to it was added dropwise a mixture of 22.8 g. of methyl (3-trifluoromethylphenyl)acetate and 12.9 g. of phenylacetonitrile. The apparatus was then set up for distillation, and the mixture was heated to 110°, removing about 46 ml. of distillate. The mixture was then cooled to about 12°, and to it was added 50 ml. of ice-water. The aqueous layer was removed and washed with 20 ml. of cold toluene. The organics were combined and washed with cold water. The aqueous layers were combined, and the pH was adjusted to 3.5 with cold hydrochloric acid. The oily product was collected by extracting the aqueous portion with three 40 ml. portions of dichloromethane, drying the organic layer over sodium sulfate and evaporating it under vacuum to obtain 30.5 g. of oil, which was 89% pure product by vapor phase chromatography.

reactant | sodium methoxide | C[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methyl (3-trifluoromethylphenyl)acetate | FC(C=1C=C(C=CC1)CC(=O)OC)(F)F | C10H9F3O2
reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
solvent | methanol | CO | CH4O
product | 1-Cyano-1-phenyl-3-(3-trifluoromethylphenyl)-2-propanone | C(#N)C(C(CC1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C17H12F3NO
